US04020078
2-Methylamino-5-(3-chlorophenyl)-1,3,4-thiadiazole
A well-stirred mixture of 125 g (0.8 mole) of 3-chlorobenzoic acid and 84 g (0.8 mole) of 4-methylthiosemicarbazide in 700 ml of dioxane was heated until the solution was homogeneous. Phosphorus oxychloride (123 g, 0.8 mole) was added dropwise to the resulting solution at a rate to maintain the dioxane at gentle reflux.

reactant | 3-chlorobenzoic acid | 0.8 mole, 125 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | 4-methylthiosemicarbazide | 0.8 mole, 84 g | CNC(NN)=S | C2H7N3S
reactant | Phosphorus oxychloride | 0.8 mole, 123 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 700 ml | O1CCOCC1 | C4H8O2
product | 2-Methylamino-5-(3-chlorophenyl)-1,3,4-thiadiazole | CNC=1SC(=NN1)C1=CC(=CC=C1)Cl | C9H8ClN3S
